US04859751
An ethylene/vinyl chloride/vinyl acetate copolymer dispersion was prepared analogously to EP 76 511. First, a mixture of 1,700 g of vinyl acetate and 6,800 g of vinyl chloride was introduced into a tank and 2,000 g of demineralized water and 3,500 g of a 20% solution of a polyvinyl alcohol with a saponification number of 140 and a viscosity of 5 mPas (4% strength aqueous solution at 20° C., according to Hoppler) were introduced into a boiler of 16 liter capacity. A vacuum was then applied which was interrupted with nitrogen and the boiler was then evacuated again, the stirrer driven at 250 min-1, and the contents were heated to 50° C.

reactant | vinyl acetate | 1,700 g | C(C)(=O)OC=C | C4H6O2
reactant | vinyl chloride | 6,800 g | C(=C)Cl | C2H3Cl
solvent | water | 2,000 g | O | H2O
product | ethylene/vinyl chloride vinyl acetate | C=C.C(=C)Cl.C(C)(=O)OC=C | InChI=1S/C4H6O2.C2H3Cl.C2H4/c1-3-6-4(2)5;1-2-3;1-2/h3H,1H2,2H3;2H,1H2;1-2H2
